US06417200B1
K) N2-(t-butylbenzoyl)-4-(ethoxycarbonylmethoxy)-1,2-benzenediamine
To a mixture of N1-(t-butoxycarbonyl)-N2-(t-butylbenzoyl)-4-(ethoxycarbonylmethoxy)-1,2-benzenediamine (878 mg, 1.87 mmol) and CH2C12 (20 mL) was added TFA (1.5 mL, 19.5 mmol). After 12 h, the reaction was diluted with CH2Cl2 (300 ml) and washed with sat. aq. NaHCO3 (3×50 mL). The organic layer was MgSO4 dried, and concentrated. The crude material was chromatographed (65 g silica, 20% EtOAc/hexanes to 50% EtOAc/hexanes) to give the title compound (98%); IR(CHCl3): 1176, 1512, 1668, 1755, 2968 cm−1; NMR(300 MHz, DMSO-d6): 1.22 (t, 3H, J=7.2 Hz); 1.33 (s, 9H); 4.17 (q, 2H, J=7.2 Hz); 4.62 (s, 2H); 6.64 (d, 1H, J=8.7 Hz); 6.74 (d, 1H, J=8.7 Hz); 6.95 (d, 1H, J=3.0 Hz); 7.54 (d, 2H, J=8.7 Hz); 7.91 (d, 2H, J=8.1 Hz); 9.59 (s, 1H); MS(FD): 370.

reactant | N1-(t-butoxycarbonyl)-N2-(t-butylbenzoyl)-4-(ethoxycarbonylmethoxy)-1,2-benzenediamine | 1.87 mmol, 878 mg | C(C)(C)(C)OC(=O)NC=1C(=CC(=CC1)OCC(=O)OCC)NC(C1=C(C=CC=C1)C(C)(C)C)=O | C26H34N2O6
reactant | TFA | 19.5 mmol, 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | N2-(t-butylbenzoyl)-4-(ethoxycarbonylmethoxy)-1,2-benzenediamine | 98% | C(C)(C)(C)C1=C(C(=O)NC=2C(=CC=C(C2)OCC(=O)OCC)N)C=CC=C1 | C21H26N2O4
